US07851072B2
Step 2: 2-(2′-methylbiphenyl-3-yl)pyridine
2-(3-bromophenyl)pyridine (25.0 g, 0.107 mol) was reacted with 2-methylphenylboronic acid (17.4 g, 0.128 mol) under standard Suzuki coupling condition. The product (25 g) was collected by Kugelrohr distillation at 220° C. as a white solid.

reactant | 2-(3-bromophenyl)pyridine | 0.107 mol, 25.0 g | BrC=1C=C(C=CC1)C1=NC=CC=C1 | C11H8BrN
reactant | 2-methylphenylboronic acid | 0.128 mol, 17.4 g | CC1=C(C=CC=C1)B(O)O | C7H9BO2
product | 2-(2′-methylbiphenyl-3-yl)pyridine | CC1=C(C=CC=C1)C1=CC(=CC=C1)C1=NC=CC=C1 | C18H15N
